US06831106B1
h) {4-[4′-(1-Ethyl-1-hydroxypropyl)-2′-methylbiphenyl-3-ylmethoxy]-2-hydroxymethylphenyl}methanol
In a manner similar to that of Example 20(e), by reaction of 1.5 g (3.15 mmol) of dimethyl 4-[4′(1-ethyl-1-hydroxypropyl)-2′-methylbiphenyl-3-ylmethoxy)-phthalate with 480 mg (12.6 mmol) of lithium aluminium hydride, the desired product is obtained in the form of a white solid (m.p.=87° C.; m=1.03 g; Y=78%).

reactant | dimethyl 4-[4′(1-ethyl-1-hydroxypropyl)-2′-methylbiphenyl-3-ylmethoxy)-phthalate | 3.15 mmol, 1.5 g | C(C)C(CC)(O)C1=CC(=C(C=C1)C1=CC(=CC=C1)COC=1C=C(C(C(=O)OC)=CC1)C(=O)OC)C | C29H32O6
reactant | lithium aluminium hydride | 12.6 mmol, 480 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | {4-[4′-(1-Ethyl-1-hydroxypropyl)-2′-methylbiphenyl-3-ylmethoxy]-2-hydroxymethylphenyl}methanol | C(C)C(CC)(O)C1=CC(=C(C=C1)C1=CC(=CC=C1)COC1=CC(=C(C=C1)CO)CO)C | C27H32O4
